US09399646B2
Step 2: (1Z,2E)-N′-Hydroxy-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylimidamide
To a solution of (E)-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylonitrile (380 mg, 0.83 mmol) and hydroxylamine hydrochloride (265 mg, 3.8 mmol) in DMSO (8 mL) was added triethylamine (0.5 mL, 3.8 mmol), and the mixture was heated at 75° C. for 24 h. After cooling, water was added, and the solution was extracted with EtOAc (3×). The combined organics were washed with brine (2×), dried (MgSO4) and concentrated. Purification by silica gel chromatography (0 to 65% EtOAc/hexanes) provided 116 mg of the title compound as a yellow foam. LCMS: 409 [(M-THP+H)+H]+.

reactant | (E)-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylonitrile | 0.83 mmol, 380 mg | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C#N)/CC | C31H29N3O
reactant | hydroxylamine hydrochloride | 3.8 mmol, 265 mg | Cl.NO
reactant | triethylamine | 3.8 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | (1Z,2E)-N′-Hydroxy-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylimidamide | 116 mg | O\N=C(\C=C\C1=CC=C(C=C1)/C(=C(/CC)\C1=CC=CC=C1)/C=1C=C2C=NN(C2=CC1)C1OCCCC1)/N | C31H32N4O2
